US04788206
As in Example 134, a solution of (2E,4E)-5-(3-fluorophenyl)-5-(3-methoxyphenyl)-2,4-pentadienoic acid 4-nitrophenyl ester (1.8 g) and 3-pyridinebutanamine (0.650 g) in tetrahydrofuran (20 mL) was stirred for 17 hours at room temperature. The crude amide, isolated in the usual fashion, was purified by HPLC (ethyl acetate) and then crystallized from ether-hexane to furnish 1.6 g of (2E,4E)-5-(3-fluorophenyl)-5-(3-methoxyphenyl)-N-[4-(3-pyridinyl)butyl]-2,4-pentadienamide mp 55°-60° C. A sample was recrystallized from ethyl acetate-hexane to yield the analytical specimen, mp 58°-60° C.

reactant | (2E,4E)-5-(3-fluorophenyl)-5-(3-methoxyphenyl)-2,4-pentadienoic acid 4-nitrophenyl ester | 1.8 g | [N+](=O)([O-])C1=CC=C(C=C1)OC(\C=C\C=C(/C1=CC(=CC=C1)OC)\C1=CC(=CC=C1)F)=O | C24H18FNO5
reactant | 3-pyridinebutanamine | 0.650 g | N1=CC(=CC=C1)CCCCN | C9H14N2
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
product | (2E,4E)-5-(3-fluorophenyl)-5-(3-methoxyphenyl)-N-[4-(3-pyridinyl)butyl]-2,4-pentadienamide | 1.6 g | FC=1C=C(C=CC1)/C(=C/C=C/C(=O)NCCCCC=1C=NC=CC1)/C1=CC(=CC=C1)OC | C27H27FN2O2
